US05489589
(3 R, 4R)-3-Triethylsilyloxy-4-(2-furyl)-N-isopropyloxycarbonylazetidin-2-one
(3R, 4R)-3-Triethylsilyloxy-4-(2-furyl)azetidin-2-one (0.51 g, 1.91 mmol) in 25 mL of dichloromethane was stirred with diisopropylethyl amine (0.78 mL, 4.4 mmol) and i-propylchloroformate (4.0 mL, 1.0M in toluene, 4.0 mmol) in addition to a catalytic amount of DMAP. The solution was stirred for 1 h and diluted with dichloromethane and washed with brine, dried over MgSO4 and concentrated. The residue was chromatographed over silica gel (eluted with 5:1 hexane/ethyl acetate) to give 649 mg of the title product (Y: 96%); IR(KBr) 1822, 1812, 1716, 1374, 1314, 1186, 1018, 1004, 746 cm-1 ; 1H NMR (CDCl3,300MHz) δ7.39 (m, 1H), 6.35 (m, 2H), 5.08 (ABq, J=15.6, 5.6 Hz, 2H), 4.96 (d, J=10.0 Hz, 1H), 1.25 (d, J=6.3 Hz, 3H), 1.17 (d, J= 6.3 Hz, 3H)), 0.83 (t, J=7.8, 9H), 0.50 (m, 6H); 13C NMR (CDCl3,75.5 Hz) δ165.5, 148.6, 147.8, 142.9, 110.5, 109.9, 77.6, 71.1, 55.9, 21.7, 21.6, 6.3, 4.4; DCIMS M+H calcd for C17H28NO5Si: 354, Found: 354.

reactant | (3R, 4R)-3-Triethylsilyloxy-4-(2-furyl)azetidin-2-one | 1.91 mmol, 0.51 g | C(C)[Si](O[C@H]1C(N[C@H]1C=1OC=CC1)=O)(CC)CC | C13H21NO3Si
reactant | diisopropylethyl amine | 4.4 mmol, 0.78 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | i-propylchloroformate | 4.0 mmol, 1.0M, 4.0 mL | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-Triethylsilyloxy-4-(2-furyl)-N-isopropyloxycarbonylazetidin-2-one | 649 mg, 96% | C(C)[Si](OC1C(N(C1C=1OC=CC1)C(=O)OC(C)C)=O)(CC)CC | C17H27NO5Si
